US07897607B2
4-(1-Ethylpropoxy)-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
To a solution of 3-pentanol (0.093 ml, 0.86 mmol) in DMF (2 ml) was added sodium hydride (60% in oil, 34 mg, 0.86 mmol). The mixture was stirred for 10 min before addition of 4-chloro-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one (64.8 mg, 0.20 mmol). The mixture was stirred at 60° C. for 1.5 hours, then diluted with water (50 ml) and extracted with ethyl acetate (50 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (10:1) to give 52 mg (69%) of the title compound as crystals.

reactant | 3-pentanol | 0.86 mmol, 0.093 ml | CCC(CC)O | C5H12O
reactant | sodium hydride | 0.86 mmol, 34 mg | [H-].[Na+]
reactant | 4-chloro-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 0.20 mmol, 64.8 mg | ClC=1C2=C(C(N(N1)C)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C16H16ClN3O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-(1-Ethylpropoxy)-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 52 mg, 69% | C(C)C(CC)OC=1C2=C(C(N(N1)C)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C21H27N3O2
